US05990156
d) (4S,5R,6R)-5-Acetylamino-4-(tert-butoxycarbonylamino)-6-(methylpropylcarbamoyl)-5,6-dihydro-4H-pyran-2-carboxylic acid benzhydryl ester
To (2R,3R,4S)-3-acetylamino-4-(tert-butoxycarbonylamino)-3,4-dihydro-2H-pyran-2,6-dicarboxylic acid 6-benzhydryl ester 2-(2,3,4,5,6-pentafluoro-phenyl) ester (1.18 g) in dry tetrahydroduran (13 ml) was added N-methyl-propylamine (0.152 g) and the reaction was stirred at 23° C. for 4 hours. The solvent was removed in vacuo and the residue was chromatographed over silica (Merck 9385, 150 g) using medium pressure (~4 psi) and ethyl acetate as the eluant. The required fractions were combined and the solvent removed in vacuo to give the title compound as a white foam. (0.85 g); 1H NMR (250 MHz, D6 -DMSO) 8.10-7.98 (1H, m), 7.48-7.26 (10H, m), 6.91 (1H, s), 6.58 (1H, m), 6.03 (1H, m), 5.13 (1H, m), 4.34 (1H, m), 4.03 (1H, m), 3.37 (2H, m), 3.07+2.81 (3H, s), 1.77 (3H, s), 1.64-1.22 (2H, m), 1.37 (9H, s), 0.81 (3H, m): Mass spec (Low resolution): MH+ =566, MH+ -BOC=466; Mass analysis:

reactant | (2R,3R,4S)-3-acetylamino-4-(tert-butoxycarbonylamino)-3,4-dihydro-2H-pyran-2,6-dicarboxylic acid 6-benzhydryl ester 2-(2,3,4,5,6-pentafluoro-phenyl) ester | 1.18 g | FC1=C(C(=C(C(=C1F)F)F)F)OC(=O)[C@@H]1OC(=C[C@@H]([C@H]1NC(C)=O)NC(=O)OC(C)(C)C)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C33H29F5N2O8
reactant | N-methyl-propylamine | 0.152 g | CNCCC | C4H11N
product | (4S,5R,6R)-5-Acetylamino-4-(tert-butoxycarbonylamino)-6-(methylpropylcarbamoyl)-5,6-dihydro-4H-pyran-2-carboxylic acid benzhydryl ester | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1O[C@H]([C@@H]([C@H](C1)NC(=O)OC(C)(C)C)NC(C)=O)C(N(CCC)C)=O | C31H39N3O7
